US04954508
4,7-dihydro-6-methyl-1,3-diphenyl-4-(3-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid methyl ester.
Methyl-2-(3-nitrobenzyliden)acetoacetate is added to 1,3-diphenyl-5-pyrazolamine (0.010 mol) in ethanol (16 ml) and refluxed for 90 minutes under nitrogen. After cooling to room temperature, the solvent is evaporated under reduced pressure, the residue is taken up in ethyl ether, discarding the insolubles, and then the solvent is evaporated. Upon crystallization from methanol, the product of the title is obtained. M.p. 186°-189° C.

reactant | Methyl-2-(3-nitrobenzyliden)acetoacetate | COC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 1,3-diphenyl-5-pyrazolamine | 0.010 mol | C1(=CC=CC=C1)N1N=C(C=C1N)C1=CC=CC=C1 | C15H13N3
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 4,7-dihydro-6-methyl-1,3-diphenyl-4-(3-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid methyl ester | COC(=O)C=1C(C2=C(NC1C)N(N=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C27H22N4O4
